US07544672B2
A mixture of but-3-ynyl 4-methylbenzenesulfonate (972 mg) and N-methyl piperazine (482 μL) was heated to 80 C. for 4.5 h, diluted with 1,2-dichloroethane (5 mL) and heated to 70° C. for 18 h. Saturated aq. NaHCO3 was added (10 mL) and the mixture was extracted with DCM (3×40 mL), and concentrated to afford 0.70 g of 1-(but-3-ynyl)-4-methylpiperazine as a 3:2 mixture of tosylate salt and free base.

reactant | but-3-ynyl 4-methylbenzenesulfonate | 972 mg | CC1=CC=C(C=C1)S(=O)(=O)OCCC#C | C11H12O3S
reactant | N-methyl piperazine | 482 μL | CN1CCNCC1 | C5H12N2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
product | 1-(but-3-ynyl)-4-methylpiperazine | 0.70 g | C(CC#C)N1CCN(CC1)C | C9H16N2
